US07202245B2
8-Fluoro-4-[1-(6-methyl-pyridine-2-carbonyl)-piperidin-4-ylamino]-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one
To a slurry of 98 mg of 8-fluoro-4-(piperidin-4-ylamino)-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one, 33 mg of 6-methyl-picolinic acid, and 32 mg of HOBT in DMF (1.4 mL) was added 109 mg of triethylamine, followed by 47 mg of EDC and the mixture was stirred for 18 hrs. To this mixture was added 15 mg of 6-methyl-picolinic acid and 57 mg of benzotriazol-1-yl-oxy-trispyrrolidinophosphonium hexafluorophosphate, and stirring was continued for 30 min. The reaction mixture was diluted with water, and extracted with methylene chloride, and the organic extracts were washed with 50% saturated sodium bicarbonate and water, and then concentrated. The residue was separated using silica gel chromatography to provide a material that was dissolved in 10% MeOH/EtOAc, and washed with water. The organic extract was dried over sodium sulfate, filtered, and concentrated to provide the title compound as a white solid. MS (M+H)+=422.0.

reactant | 8-fluoro-4-(piperidin-4-ylamino)-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | 98 mg | FC1=CC=C2N=C(C=3N(C2=C1)C(NN3)=O)NC3CCNCC3 | C14H15FN6O
reactant | 6-methyl-picolinic acid | 33 mg | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
reactant | HOBT | 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 6-methyl-picolinic acid | 15 mg | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
reactant | benzotriazol-1-yl-oxy-trispyrrolidinophosphonium hexafluorophosphate | 57 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | DMF | 1.4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | MeOH EtOAc | CO.CCOC(=O)C
solvent | EDC | 47 mg
solvent | triethylamine | 109 mg | C(C)N(CC)CC | C6H15N
product | 8-Fluoro-4-[1-(6-methyl-pyridine-2-carbonyl)-piperidin-4-ylamino]-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | FC1=CC=C2N=C(C=3N(C2=C1)C(NN3)=O)NC3CCN(CC3)C(=O)C3=NC(=CC=C3)C | C21H20FN7O2
